US08735379B2
A mixture of 3-(benzyloxycarbonylamino)propyl 2-acetoxybenzoate (2.0 g, 5.4 mmol), 10% Pd/C (0.2 g) and CH3OH (50 mL) was stirred under a H2 atmosphere (RT, 16 h). The mixture was filtered and concentrated under reduced pressure to afford a colorless oil. Purification by silica chromatography afforded 3-aminopropyl 2-acetoxybenzoate as a colorless oil. Mass calculated for C12H15NO4=237.25. found: [M+H]+=238.3.

reactant | 3-(benzyloxycarbonylamino)propyl 2-acetoxybenzoate | 5.4 mmol, 2.0 g | C(C)(=O)OC1=C(C(=O)OCCCNC(=O)OCC2=CC=CC=C2)C=CC=C1 | C20H21NO6
catalyst | Pd/C | 0.2 g | [Pd] | Pd
solvent | CH3OH | 50 mL | CO | CH4O
product | 3-aminopropyl 2-acetoxybenzoate | C(C)(=O)OC1=C(C(=O)OCCCN)C=CC=C1 | C12H15NO4
